US04020058
2-(1-t-Butoxycarbonylcyclopent-1-yloxyimino)-2-(fur-2-yl) acetic acid (syn isomer)
The dipotassium salt of 2-(fur-2-yl)-2-hydroxyiminoacetic acid (syn isomer) was generated under an atmosphere of dry nitrogen and alkylated with t-butyl 1-bromocyclopentanecarboxylate using the method of Preparation 2. The product was isolated by pouring into water, acidifying and extracting in the conventional manner, thereby yielding the title compound, m.p. 106.8°-107.3°; λmax (pH 6 buffer) 277.5 nm (ε 15,100); τ(d6 -DMSO) values include 8.03, 8.30 (m, cyclopentyl protons) and 8.63 (C(CH3)3).

reactant | 2-(fur-2-yl)-2-hydroxyiminoacetic acid | O1C(=CC=C1)C(C(=O)O)=NO | C6H5NO4
reactant | t-butyl 1-bromocyclopentanecarboxylate | BrC1(CCCC1)C(=O)OC(C)(C)C | C10H17BrO2
solvent | water | O | H2O
product | 2-(1-t-Butoxycarbonylcyclopent-1-yloxyimino)-2-(fur-2-yl) acetic acid | C(C)(C)(C)OC(=O)C1(CCCC1)ON=C(C(=O)O)C=1OC=CC1 | C16H21NO6
